US08791267B2
Synthesis of {1-[5-(3′-Chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-pyridin-2-yl]-ethyl}-urea hydrochloride (P-613):
In an 8 mL vial equipped with a stir bar was placed 1-[5-(3′-Chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-pyridin-2-yl]-ethylamine dihydrochloride (P-606, 55 mg, 0.124 mmol), water (800 uL), glacial acetic acid (400 uL) followed by sodium cyanate (32.2 mg, 0.496 mmol). The mixture was stirred at room temperature for 18 hours and then slowly quenched with a saturated solution of sodium bicarbonate (3 mL) and extracted with dichloromethane (3×4 mL). The organic portions were combined, dried (MgSO4), concentrated and purified by a 10 gram silica gel SNAP cartridge (Biotage SP4 Flash Chromatography instrument) utilizing gradient elution of 2-20% MeOH/dichloromethane to produce 13 mg of P-613 (free base) as an off-white solid in 25% yield. To P-613 (free base) (13 mg, 0.0314 mmol) was added diethyl ether (1 mL) and 2M HCl in diethyl ether (300 uL). The mixture was allowed to stir at room temperature for 10 minutes, concentrated and dried to produce 14 mg of P-613HCl salt as an off-white solid in quantitative yield. 1H NMR (400 MHz, DMSO-d6) δ 1.36 (d, J=7 Hz, 3H), 3.73 (s, 3H), 4.06 (s, 2H), 4.82 (m, 1H), 5.53 (br s, 2H), 6.69 (br s, 1H), 6.97 (d, J=9 Hz, 1H), 7.29 (br d, J=6 Hz, 1H), 7.38-7.47 (m, 4H), 7.60 (br d, J=8 Hz, 1H), 8.02 (br d, J=8 Hz, 1H), 8.58 (s, 1H) ppm.

reactant | 1-[5-(3′-Chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-pyridin-2-yl]-ethylamine dihydrochloride | 0.124 mmol, 55 mg | Cl.Cl.ClC=1C=C(C=CC1)C1=C(C(=CC=C1OC)CC=1C=CC(=NC1)C(C)N)F
reactant | water | 800 uL | O | H2O
reactant | sodium cyanate | 0.496 mmol, 32.2 mg | [O-]C#N.[Na+]
reactant | HCl | 2M | Cl | ClH
solvent | diethyl ether | 300 uL | C(C)OCC | C4H10O
solvent | diethyl ether | 1 mL | C(C)OCC | C4H10O
solvent | acetic acid | 400 uL | C(C)(=O)O | C2H4O2
product | {1-[5-(3′-Chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-pyridin-2-yl]-ethyl}-urea hydrochloride | 14 mg, quantitative yield | Cl.ClC=1C=C(C=CC1)C1=C(C(=CC=C1OC)CC=1C=CC(=NC1)C(C)NC(=O)N)F | InChI=1S/C22H21ClFN3O2.ClH/c1-13(27-22(25)28)18-8-6-14(12-26-18)10-16-7-9-19(29-2)20(21(16)24)15-4-3-5-17(23)11-15;/h3-9,11-13H,10H2,1-2H3,(H3,25,27,28);1H
